US07700641B2
A. Synthesis of 4-bromo-1-(Pyridin-2-ylmethyl)-1H-indole-2,3-dione
To a solution of 4-bromoisatin (8.94 g, 39.5 mmol) in anhydrous N,N-dimethylformamide (100 mL) was added sodium hydride (3.34 g, 86.9 mmol, 60% dispersion in mineral oil) in portions at 0° C. The brown reaction mixture was stirred for 30 min followed by the addition of a solution of 2-(bromomethyl)pyridine hydrobromide (10.0 g, 39.5 mmol) neutralized with sodium hydride (1.52 g, 39.5 mmol, 60% dispersion in mineral oil) in N,N-dimethylformamide at 0° C. The reaction mixture was stirred for 16 h and quenched with water (100 mL). The reaction mixture was extracted with diethyl ether (3×100 mL) and the aqueous layer was extracted with ethyl acetate (3×100 mL). The combined organic layers was washed with water (5×200 mL), dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The residue was triturated with ether to afford the title compound (10.6 g, 85%) as a brown solid: 1H NMR (300 MHz, DMSO-d6) δ 8.53 (d, 1H), 7.67 (t, 1H), 7.30 (t, 2H), 7.25-7.19 (m, 2H), 6.94 (d, 1H), 5.04 (s, 2H); 13C NMR (75 MHz, DMSO-d6) δ 180.5, 157.3, 154.2, 152.3, 149.5, 138.4, 137.5, 128.6, 123.3, 122.3, 121.5, 116.4, 110.3, 45.8.

reactant | 4-bromoisatin | 39.5 mmol, 8.94 g | BrC1=C2C(C(NC2=CC=C1)=O)=O | C8H4BrNO2
reactant | sodium hydride | 86.9 mmol, 3.34 g | [H-].[Na+]
reactant | 2-(bromomethyl)pyridine hydrobromide | 39.5 mmol, 10.0 g | Br.BrCC1=NC=CC=C1
reactant | sodium hydride | 39.5 mmol, 1.52 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-bromo-1-(Pyridin-2-ylmethyl)-1H-indole-2,3-dione | 10.6 g, 85% | BrC1=C2C(C(N(C2=CC=C1)CC1=NC=CC=C1)=O)=O | C14H9BrN2O2
